Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[N:6]([CH3:7])[C:8](=[O:9])[O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15].[CH3:16][O:17][C:18](=[O:19])[C@@H:20]1[CH2:21][CH2:22][CH2:23][NH:24]1>>[C:1]([CH:2]([CH:3]([CH3:4])[CH3:5])[N:6]([CH3:7])[C:8](=[O:9])[O:10][C:11]([CH3:12])([CH3:13])[CH3:14])(=[O:15])[N:24]1[CH:20]([C:18]([O:17][CH3:16])=[O:19])[CH2:21][CH2:22][CH2:23]1,[OH:101][C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[N:6]([CH3:7])[C:8](=[O:9])[O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15].[CH3:16][O:17][C:18](=[O:19])[C@@H:20]1[CH2:21][CH2:22][CH2:23][NH:24]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]([CH:3]([CH3:4])[CH3:5])[N:6]([CH3:7])[C:8](=[O:9])[O:10][C:11]([CH3:12])([CH3:13])[CH3:14])(=[O:15])[N:24]1[CH:20]([C:18]([O:17][CH3:16])=[O:19])[CH2:21][CH2:22][CH2:23]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 15], 15), (303, 24.1), ([24.1, 24], 24), (15, [15, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2]#[C:3][CH2:4][N:5]([CH3:6])[CH3:7].[NH2:8][CH2:9][CH2:10][SH:11]>>[CH2:1]([C:2]#[C:3][CH2:4][N:5]([CH3:6])[CH3:7])[S:11][CH2:10][CH2:9][NH2:8],[Cl:101][CH2:1][C:2]#[C:3][CH2:4][N:5]([CH3:6])[CH3:7].[NH2:8][CH2:9][CH2:10][SH:11].[H-:301].[Na+]>>[CH2:1]([C:2]#[C:3][CH2:4][N:5]([CH3:6])[CH3:7])[S:11][CH2:10][CH2:9][NH2:8],SN2_alcohol(thiol),"[(301, 11.1), ([11.1, 11], 11), (11, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1]([c:2]1[n:3]([C@H:4]2[C:5]([CH3:6])([CH3:7])[CH2:8]/[C:9](=[N:10]\[O:11][CH3:12])[c:13]3[c:14]2[cH:15][cH:16][cH:17][cH:18]3)[cH:19][n:20][cH:21]1)=[O:22]>>[CH2:1]([c:2]1[n:3]([C@H:4]2[C:5]([CH3:6])([CH3:7])[CH2:8][C:9](=[N:10][O:11][CH3:12])[c:13]3[c:14]2[cH:15][cH:16][cH:17][cH:18]3)[cH:19][n:20][cH:21]1)[OH:22],C[O:101][C:1]([c:2]1[n:3]([C@H:4]2[C:5]([CH3:6])([CH3:7])[CH2:8]/[C:9](=[N:10]\[O:11][CH3:12])[c:13]3[c:14]2[cH:15][cH:16][cH:17][cH:18]3)[cH:19][n:20][cH:21]1)=[O:22].[AlH4-:301].[AlH4-:302].[H+:303]>>[CH2:1]([c:2]1[n:3]([C@H:4]2[C:5]([CH3:6])([CH3:7])[CH2:8][C:9](=[N:10][O:11][CH3:12])[c:13]3[c:14]2[cH:15][cH:16][cH:17][cH:18]3)[cH:19][n:20][cH:21]1)[OH:22],ester_reduction,"[([301, 301.1], 1), ([1, 22], 22), (22, [22, 1]), ([1, 101], 101), ([302, 302.1], 1), ([1, 22], 22), (22, 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[OH:20][CH2:1][c:2]1[nH:3][cH:4][cH:5][c:6]1[CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1.[CH3:14][CH:15]([CH3:16])[CH:17]([C:18](=[O:19])O)[c:21]1[cH:22][c:23]2[cH:24][c:25]([F:26])[cH:27][cH:28][c:29]2[s:30]1>>[CH2:1]([c:2]1[nH:3][cH:4][cH:5][c:6]1[CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[O:20][C:18]([CH:17]([CH:15]([CH3:14])[CH3:16])[c:21]1[cH:22][c:23]2[cH:24][c:25]([F:26])[cH:27][cH:28][c:29]2[s:30]1)=[O:19],[OH:101][C:18]([CH:17]([CH:15]([CH3:14])[CH3:16])[c:21]1[cH:22][c:23]2[cH:24][c:25]([F:26])[cH:27][cH:28][c:29]2[s:30]1)=[O:19].[CH2:1]([c:2]1[nH:3][cH:4][cH:5][c:6]1[CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[OH:20].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[CH2:1]([c:2]1[nH:3][cH:4][cH:5][c:6]1[CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[O:20][C:18]([CH:17]([CH:15]([CH3:14])[CH3:16])[c:21]1[cH:22][c:23]2[cH:24][c:25]([F:26])[cH:27][cH:28][c:29]2[s:30]1)=[O:19],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (20, 18), ([18, 19], 19), (303, 20.1), ([20.1, 20], 20), (19, [19, 18]), ([18, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)[Si](C)(C)[O:1][CH2:2][c:3]1[cH:4][c:5]([NH:6][C:7]([N:8]2[c:9]3[cH:10][cH:11][c:12]([O:13][c:14]4[cH:15][cH:16][n:17][c:18]5[cH:19][c:20]([O:21][CH3:22])[c:23]([O:24][CH3:25])[cH:26][c:27]45)[cH:28][c:29]3[O:30][CH2:31][CH2:32]2)=[O:33])[n:34][o:35]1>>[OH:1][CH2:2][c:3]1[cH:4][c:5]([NH:6][C:7]([N:8]2[c:9]3[cH:10][cH:11][c:12]([O:13][c:14]4[cH:15][cH:16][n:17][c:18]5[cH:19][c:20]([O:21][CH3:22])[c:23]([O:24][CH3:25])[cH:26][c:27]45)[cH:28][c:29]3[O:30][CH2:31][CH2:32]2)=[O:33])[n:34][o:35]1,CC(C)(C)[Si:101](C)(C)[O:1][CH2:2][c:3]1[cH:4][c:5]([NH:6][C:7]([N:8]2[c:9]3[cH:10][cH:11][c:12]([O:13][c:14]4[cH:15][cH:16][n:17][c:18]5[cH:19][c:20]([O:21][CH3:22])[c:23]([O:24][CH3:25])[cH:26][c:27]45)[cH:28][c:29]3[O:30][CH2:31][CH2:32]2)=[O:33])[n:34][o:35]1.[F-:301]>>[OH:1][CH2:2][c:3]1[cH:4][c:5]([NH:6][C:7]([N:8]2[c:9]3[cH:10][cH:11][c:12]([O:13][c:14]4[cH:15][cH:16][n:17][c:18]5[cH:19][c:20]([O:21][CH3:22])[c:23]([O:24][CH3:25])[cH:26][c:27]45)[cH:28][c:29]3[O:30][CH2:31][CH2:32]2)=[O:33])[n:34][o:35]1,SN2,"[(301, 101), ([101, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
